US07078565B2
(S)-(3,4-Dimethoxy-benzyl)-(1-methyl-2-phenyl-ethyl)-amine
A solution of 3,4-dimethoxybenzaldehyde (1.06 g, 6.4 mmol), (S)-1-methyl-2-phenylethylamine sulfate (1.18 g, 6.4 mmol) and triethylamine (0.89 ml, 6.4 mmol) in 1,2-dichloroethane (50 ml) was stirred at room temperature under argon for 15 min. Sodium triacetoxyborohydride (2.97 g, 14 mmol) was added over 5 min. then stirring was continued for a further 16 h. The reaction mixture was diluted with MDC (50 ml) then washed with saturated aqueous K2CO3. The aqueous phase was extracted with MDC and the combined organics washed with brine. The organic phase was dried (MgSO4) and the solvent removed in vacuo. The residue was chromatographed (silica gel, 0–100% EtOAc-pentane) to afford the title compound as a colourless oil (1.20 g, 67%).

reactant | 3,4-dimethoxybenzaldehyde | 6.4 mmol, 1.06 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | (S)-1-methyl-2-phenylethylamine sulfate | 6.4 mmol, 1.18 g | S(=O)(=O)(O)O.C[C@@H](CC1=CC=CC=C1)N
reactant | triethylamine | 6.4 mmol, 0.89 ml | C(C)N(CC)CC | C6H15N
reactant | Sodium triacetoxyborohydride | 14 mmol, 2.97 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | (S)-(3,4-Dimethoxy-benzyl)-(1-methyl-2-phenyl-ethyl)-amine | 1.20 g, 67% | COC=1C=C(CN[C@H](CC2=CC=CC=C2)C)C=CC1OC | C18H23NO2
